US06936608B2
2-{7-[2-Fluoro-3-(pyridin-4-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}propan-2-ol
2-Fluoro-3-(pyridin-4-yl)benzeneboronic acid was coupled with 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol in 70% yield by a similar procedure to that described in Example 3, step f, to afford the title compound as a yellow solid: mp 221-223° C. (CH2Cl2-EtOAc-MeOH); 1H NMR (400 MHz, DMSO-d6) δ 1.57 (6H, s), 5.79 (1H, s), 7.55 (1H, t, J 7.8 Hz), 7.66 (2H, m), 7.73 (1H, m), 8.15 (1H, m), 8.29 (1H, d, J 2.3 Hz), 8.71 (2H, m), 9.02 (1H, s); MS (ES+) m/z 350 [M+H]+. Anal. Found: C, 65.06; H, 4.62; N, 19.91%. Required for C19H16FN5O: C, 65.32; H, 4.62; N, 20.05%.

reactant | 2-Fluoro-3-(pyridin-4-yl)benzeneboronic acid | FC1=C(C=CC=C1C1=CC=NC=C1)B(O)O | C11H9BFNO2
reactant | 2-(7-bromoimidazo[1,2-b][1,2,4]triazin-3-yl)propan-2-ol | BrC1=CN=C2N1N=CC(=N2)C(C)(C)O | C8H9BrN4O
product | 2-{7-[2-Fluoro-3-(pyridin-4-yl)phenyl]imidazo[1,2-b][1,2,4]triazin-3-yl}propan-2-ol | FC1=C(C=CC=C1C1=CC=NC=C1)C1=CN=C2N1N=CC(=N2)C(C)(C)O | C19H16FN5O
